US06127415
Preparation of N-(2-aminoethyl)-{6-[3-(1-adamantyl)-4-methoxyphenyl]-2-naphthalenecarboxamide}.
To a suspension of 6-[3-(1-adamantyl)-4-methoxyphenyl]-2-naphthalenecarboxylic acid (3 g, 7.27 mmoles) in dry toluene (20 mL) was added thionyl chloride (0.6 mL, 8.22 mmoles) and DMF (0.04 mL) under argon. The reaction mixture was heated to 100° C. for ten minutes and another 0.04 mL of DMF was added. After 30 minutes, more thionyl chloride (0.1 mL, 1.37 mmoles) was added and the reaction mixture was heated to 110° C. for 60 minutes. The solvent and excess thionyl chloride were removed in vacua. The resulting solid was stirred with 100 mL dry methylene chloride under argon. This was added to a mixture of ethylene diamine (5.25 mL, 70 mmoles) in dry methylene chloride under argon at 0° C. while stirring rapidly. The solution was allowed to warm to ambient temperature while stirring rapidly during one hour. The reaction mixture was poured carefully into 350 mL of 1N aqueous HCl while stirring, and the methylene chloride was removed in vacua. The resulting precipitate (hydrochloride salt of the product) was washed with 1N HCl, water, THF, and methylene chloride. Yield of hydrochloride salt: 2.76 g, 77%. The free base was generated by neutralizing with aqueous sodium bicarbonate and extracting the product into tetrahydrofuran, drying the organic layer over sodium sulfate, and removing the solvent. MS 455 (M+H+).

reactant | 6-[3-(1-adamantyl)-4-methoxyphenyl]-2-naphthalenecarboxylic acid | 7.27 mmoles, 3 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C=2C=C3C=CC(=CC3=CC2)C(=O)O | C28H28O3
reactant | thionyl chloride | 8.22 mmoles, 0.6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 1.37 mmoles, 0.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethylene diamine | 70 mmoles, 5.25 mL | C(CN)N | C2H8N2
reactant | HCl | 1N, 350 mL | Cl | ClH
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.04 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.04 mL | CN(C)C=O | C3H7NO
product | N-(2-aminoethyl)-{6-[3-(1-adamantyl)-4-methoxyphenyl]-2-naphthalenecarboxamide} | NCCNC(=O)C1=CC2=CC=C(C=C2C=C1)C1=CC(=C(C=C1)OC)C12CC3CC(CC(C1)C3)C2 | C30H34N2O2
